US07514452B2
Preparation of 3,4-diphenyl-2-furancarboxylic acid hydrazide
Ethanol (50 ml) was added to a mixture of methyl 3,4-diphenyl-2-furancarboxylate (14.00 g) and hydrazine monohydrate (7.33 ml), and heated at reflux while stirring overnight. After concentrating the reaction solution under reduced pressure and adding ethanol, the thus-precipitated crystals were filtered, thereby giving 13.80 g of the desired compound.

reactant | methyl 3,4-diphenyl-2-furancarboxylate | 14.00 g | C1(=CC=CC=C1)C1=C(OC=C1C1=CC=CC=C1)C(=O)OC | C18H14O3
reactant | hydrazine monohydrate | 7.33 ml | O.NN
solvent | Ethanol | 50 ml | C(C)O | C2H6O
product | 3,4-diphenyl-2-furancarboxylic acid hydrazide | 13.80 g | C1(=CC=CC=C1)C1=C(OC=C1C1=CC=CC=C1)C(=O)NN | C17H14N2O2
